US06177423B1
5-Chloro-2-hydroxy-8-nitro-6-(pyrrolidin-1-yl)-benzo[de]isoquinoline-1,3-dione
A mixture of 2-tert-butyloxy-5-chloro-8-nitro-6-(pyrrolidin-1-yl)-benzo[de]isoquinoline-1,3-dione (0.2 g, 0.47 mmol, from Example M3-A) and TFA (1.6 mL) was stirred at room temperature for 2 hours and poured into ice water. The solid was collected, washed with water and ether, and dried to give 0.12 g of the title compound, mp 209-210° C.

reactant | 2-tert-butyloxy-5-chloro-8-nitro-6-(pyrrolidin-1-yl)-benzo[de]isoquinoline-1,3-dione | 0.47 mmol, 0.2 g | C(C)(C)(C)ON1C(C2=CC(=CC=3C2=C(C1=O)C=C(C3N3CCCC3)Cl)[N+](=O)[O-])=O | C20H20ClN3O5
reactant | TFA | 1.6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-Chloro-2-hydroxy-8-nitro-6-(pyrrolidin-1-yl)-benzo[de]isoquinoline-1,3-dione | 0.12 g | ClC=1C(=C2C3=C(C(N(C(C3=CC(=C2)[N+](=O)[O-])=O)O)=O)C1)N1CCCC1 | C16H12ClN3O5
